US06329370B1
4-Chloro-1-furan-2-ylmethyl-6-methoxy-phthalazine
A suspension under N2 of 4-furan-2-ylmethyl-7-methoxy-2H-phthalazin-1-one (1.8 g, 7.02 mmoles), prepared as described in example 126, in acetonitrile (40 ml) was added under stirring with POCl3 (3.27 ml, 35.1 mmoles), and refluxed for 1 hour, then dried. The residue was suspended in water (50 ml), added with NaHCO3 up to alkalinity, and stirred for 30 minutes, then extracted in CH2Cl2. The organic phase was anhydrified over Na2SO4 and dried to give a residue which was taken up in petrolatum and filtered. The resultant solid was dried under vacuum at 40° C. to give 1.72 g of the title compound (yield: 89%).

reactant | 4-furan-2-ylmethyl-7-methoxy-2H-phthalazin-1-one | 7.02 mmoles, 1.8 g | O1C(=CC=C1)CC1=NNC(C2=CC(=CC=C12)OC)=O | C14H12N2O3
reactant | POCl3 | 35.1 mmoles, 3.27 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-Chloro-1-furan-2-ylmethyl-6-methoxy-phthalazine | 1.72 g, yield: 89% | ClC1=NN=C(C2=CC=C(C=C12)OC)CC=1OC=CC1 | C14H11ClN2O2
